US06534490B1
17β-Hydroxy-7α-methyl-14β,15β-methylen-androst-4-en-3-one
80 ml of THF is added to a solution of methylmagnesium iodide (prepared from 2.5 g of magnesium and 6.4 ml of methyl iodide in 80 ml of diethyl ether), it is cooled to −5° C., and 1 g of copper acetate-monohydrate, dissolved in 50 ml of THF, is added. It is cooled to −20° C., and then a solution of 5 g of 17β-hydroxy-14β,15β-methylen-androsta-4,6-dien-3-one in 80 ml of THF is added in drops. After 2 hours, it is poured onto ice water/2N sulfuric acid and extracted with 3×80 ml of ethyl acetate. The organic extract is dried and concentrated by evaporation. The residue is chromatographed on silica gel (mobile solvent: dichloromethane/ethyl acetate 10:1). For further purification, it is recrystallized from ethyl acetate.

reactant | methylmagnesium iodide | 6.4 ml, 2.5 g | C[Mg]I
reactant | 17β-hydroxy-14β,15β-methylen-androsta-4,6-dien-3-one | 5 g | O[C@@H]1[C@]2(C)[C@]3([C@@H](C1)C3)[C@@H]3C=CC1=CC(CC[C@]1(C)[C@H]3CC2)=O | C20H26O2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
catalyst | copper acetate-monohydrate | 1 g | O.C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 17β-Hydroxy-7α-methyl-14β,15β-methylen-androst-4-en-3-one | O[C@@H]1[C@]2(C)[C@]3([C@@H](C1)C3)[C@@H]3[C@@H](CC1=CC(CC[C@]1(C)[C@H]3CC2)=O)C | C21H30O2
